US06962914B2
To a solution of 4-[5-chloro-2-(4-fluorophenyl)pyrazolo[1,5-a]pyridin-3-yl]-N-cyclopentyl-2-pyrimidinamine (100 mg, 0.25 mmol) in anhydrous tetrahydrofuran (5 mL) at −78° C. was added n-butyllithium (0.5 mL of 1.6 M solution in hexanes, 0.8 mmol). The resulting reaction mixture was stirred at −78° C. for 10 minutes, followed by addition of carbon tetrachloride (1 mL) and stirring at −78° C. for additional 20 minutes. The reaction was then quenched by the addition of water. The mixture was extracted with ethyl acetate. The ethyl acetate phase was washed with brine, dried (magnesium sulfate), filtered and concentrated in vacuo. The resulting residue was purified by flash chromatography (1:1 ethyl acetate-hexane) to give 50 mg (45%) of N-cyclopentyl-4-[5,7-dichloro-2-(4-fluorophenyl)pyrazolo[1,5-a]pyridin-3-yl]-2-pyrimidinamine as a yellow foam. 1H NMR (CDCl3): δ 8.53 (broad s, 1H), 8.06 (d, 1H), 7.63 (m, 2H), 7.15 (t, 2H), 7.05 (d, 1H), 6.27 (d, 1H), 5.17 (d, 1H), 4.35 (m, 1H), 2.0-2.1 (m, 2H), 1.4-1.9 (m, 6H); 19F NMR (CDCl3): δ−112.2; MS m/z 442 (M+1).

reactant | 4-[5-chloro-2-(4-fluorophenyl)pyrazolo[1,5-a]pyridin-3-yl]-N-cyclopentyl-2-pyrimidinamine | 0.25 mmol, 100 mg | ClC1=CC=2N(C=C1)N=C(C2C2=NC(=NC=C2)NC2CCCC2)C2=CC=C(C=C2)F | C22H19ClFN5
reactant | n-butyllithium | 0.8 mmol, 1.6 M, 0.5 mL | C(CCC)[Li]
reactant | carbon tetrachloride | 1 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | N-cyclopentyl-4-[5,7-dichloro-2-(4-fluorophenyl)pyrazolo[1,5-a]pyridin-3-yl]-2-pyrimidinamine | 50 mg, 45% | C1(CCCC1)NC1=NC=CC(=N1)C=1C(=NN2C1C=C(C=C2Cl)Cl)C2=CC=C(C=C2)F | C22H18Cl2FN5
